US07417047B2
Step j) Preparation of 2-Amino-5-(1-ethyl-5-propionyl-1H-pyrrol-3-yl)-3-methyl-5-(3-propoxyphenyl)-3,5-dihydro-4H-imidazol-4-one:
Under a nitrogen atmosphere, a solution of 2-amino-5-(1-ethyl-5-propionyl-1-H-pyrrol-3-yl)-5-(3-hydroxy-phenyl)-3-methyl-3,5-dihydro-imidazol-4-one (0.08 g, 0.225 mmol) in DMF (5 mL) was treated with Cs2CO3 (0.15 g, 0.45 mmol) and iodopropane (0.046 g, 0.27 mmol). The reaction mixture was sealed and stirred at room temperature for 20 hours. The solvent was removed in vacuo and the residue was dissolved in CHCl3 and filtered. The filtrate was evaporated. The resultant residue was purified by combi flash chromatography (ethyl acetate/methylene chloride/methyl alcohol/triethyl amine, 5/4.4/0.5/0.1) to give the title compound as a white solid (0.04 g, 45% yield), mp 95° C., 1H NMR (400 MHZ, DMSO-d6) δ 0.89-0.99 (dt, 6H), 1.15 (t, 3H), 1.64-1.66 (m, 2H), 2.64-2.68 (m, 2H), 2.9 (s, 3H), 3.81 (m, 2H), 4.20 (m, 2H), 6.50 (bs, 2H), 6.72-6.74 (m, 1H), 6.87 (s, 1H), 7.0-7.02 (m, 3H), 7.14 (m, 1H), MS m/e (M+H)+ 397.

reactant | 2-amino-5-(1-ethyl-5-propionyl-1-H-pyrrol-3-yl)-5-(3-hydroxy-phenyl)-3-methyl-3,5-dihydro-imidazol-4-one | 0.225 mmol, 0.08 g | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)O)C1=CN(C(=C1)C(CC)=O)CC | C19H22N4O3
reactant | Cs2CO3 | 0.45 mmol, 0.15 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | iodopropane | 0.27 mmol, 0.046 g | ICCC | C3H7I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-Amino-5-(1-ethyl-5-propionyl-1H-pyrrol-3-yl)-3-methyl-5-(3-propoxyphenyl)-3,5-dihydro-4H-imidazol-4-one | 0.04 g, 45% yield | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)OCCC)C1=CN(C(=C1)C(CC)=O)CC | C22H28N4O3
